US09359337B2
A solution of piperidin-3-ylmethyl-carbamic acid tert-butyl ester (1.00 g, 4.67 mmol), 1-bromo-4-trifluoromethyl-benzene (1.15 g, 5.13 mmol), sodium tert-butoxide (673 mg, 7.00 mmol), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (291 mg, 0.47 mmol) and tris(dibenzylideneacetone)-dipalladium (0) (214 mg, 0.23 mmol) in toluene (5 mL) at 25° C. was purged with nitrogen gas and evacuated three times. The solution was sealed and heated to 120° C. for 14 h. The reaction mixture was cooled to 25° C., unsealed and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo to afford crude [1-(4-trifluoromethyl-phenyl)-piperidin-3-ylmethyl]-carbamic acid tert-butyl ester (1.5 g, 90% crude) as a light oil.

reactant | piperidin-3-ylmethyl-carbamic acid tert-butyl ester | 4.67 mmol, 1.00 g | C(C)(C)(C)OC(NCC1CNCCC1)=O | C11H22N2O2
reactant | 1-bromo-4-trifluoromethyl-benzene | 5.13 mmol, 1.15 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | sodium tert-butoxide | 7.00 mmol, 673 mg | CC(C)([O-])C.[Na+]
reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.47 mmol, 291 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 0.23 mmol, 214 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [1-(4-trifluoromethyl-phenyl)-piperidin-3-ylmethyl]-carbamic acid tert-butyl ester | 1.5 g, 90% | C(C)(C)(C)OC(NCC1CN(CCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C18H25F3N2O2
